US08445687B2
N-methyl-4-(4-ureidophenoxy)picolinamide (50 g, 0.1746 mol), 1,8-diazabicyclo[5.4.0]undec-7-ene (33.95 ml, 0.2270 mol) and 3-trifluoromethyl-4-chloroaniline (34.2 g, 0.1746 mol) were mixed with N,N-dimethyl formamide (200 ml) (DMF) and the reaction mass was heated to reflux for 24 hours. It was then cooled to room temperature and quenched in water (600 ml). The quenched mass was extracted repeatedly with ethyl acetate and the combined ethyl acetate layer was then back washed with water to remove DMF traces. It was then dried over sodium sulfate and evaporated under vacuum to obtain solid. The solid thus obtained was then slurried in ethyl acetate (400 ml) at ambient temperature and filtered to give 4-(4-(3-(4-chloro-3-(trifluoromethyl)phenyl)ureido)phenoxy)-N-methylpicolinamide (sorafenib base) (64 g).

reactant | N-methyl-4-(4-ureidophenoxy)picolinamide | 0.1746 mol, 50 g | CNC(C1=NC=CC(=C1)OC1=CC=C(C=C1)NC(=O)N)=O | C14H14N4O3
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.2270 mol, 33.95 ml | N12CCCCCC2=NCCC1 | C9H16N2
reactant | 3-trifluoromethyl-4-chloroaniline | 0.1746 mol, 34.2 g | FC(C=1C=C(N)C=CC1Cl)(F)F | C7H5ClF3N
reactant | N,N-dimethyl formamide | 200 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 400 ml | C(C)(=O)OCC | C4H8O2
product | 4-(4-(3-(4-chloro-3-(trifluoromethyl)phenyl)ureido)phenoxy)-N-methylpicolinamide | 64 g | ClC1=C(C=C(C=C1)NC(NC1=CC=C(OC2=CC(=NC=C2)C(=O)NC)C=C1)=O)C(F)(F)F | C21H16ClF3N4O3
